US05594023
A) 1-Acetylindoline
A solution of 11.9 g of indoline in 100 ml of chloroform is cooled to 0° C., 13.9 ml of triethylamine are added and a solution of 10.4 ml of acetic anhydride in 10 ml of chloroform is then added dropwise, followed by 0.1 g of 4-dimethylaminopyride. After stirring for two hours at RT, water is added to the reaction mixture, extraction is carried out with chloroform, the organic phase is dried over sodium sulfate and the solvent is evaporated off under vacuum to give 15.44 g of the expected product, which is used as such.

reactant | indoline | 11.9 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | triethylamine | 13.9 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 10.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Acetylindoline | 15.44 g | C(C)(=O)N1CCC2=CC=CC=C12 | C10H11NO
